US04695569
A mixture of 3.34 parts of 3-(2-chloroethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one, 6 parts of 3-(4-fluorophenylmethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine dihydrochloride, 4.8 parts of sodium carbonate, 0.1 parts of potassium iodide and 135 parts of N,N-dimethylformamide was stirred and heated overnight at 70° C. The reaction mixture was poured onto water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichlormethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 4 parts (60%) of 3-[2-[4-[[3-[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]-pyridin-2-yl]amino]-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride; mp. 195.7° C. (compound 22).

reactant | 3-(2-chloroethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | ClCCC1=C(N=C2N(C1=O)C=CC=C2)C | C11H11ClN2O
reactant | 3-(4-fluorophenylmethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)NC2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[2-[4-[[3-[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]-pyridin-2-yl]amino]-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride | 60% | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CCC2=C(N=C1N(C2=O)C=CC=C1)C | InChI=1S/C29H30FN7O.2ClH/c1-20-24(28(38)36-15-3-2-6-26(36)32-20)13-18-35-16-11-23(12-17-35)33-29-34-25-5-4-14-31-27(25)37(29)19-21-7-9-22(30)10-8-21;;/h2-10,14-15,23H,11-13,16-19H2,1H3,(H,33,34);2*1H
